US07645789B2
Thionyl chloride (120 ml, 1.65 mol) was added drop-wise to a rapidly stirred mixture of (2,3-dihydro-1H-inden-5-yl)methanol (81.4 g, 0.55 mol) in chloroform (500 ml) at 0° C. After the addition was complete, the resulting mixture was allowed to warm to room temperature and the stirring was continued for an additional 12 h. The chloroform was evaporated under reduced pressure to give a residue, that was purified by column chromatography (petroleum ether:ethyl acetate=15:1) to afford 5-(chloromethyl)-2,3-dihydro-1H-indene (90.5 g, 99%). 1H NMR (300 MHz, CDCl3) δ 2.06-2.19 (m, 4H), 2.93 (t, J=7.5, 4H), 4.54 (s, 2H), 7.15-7.31 (m, 3H).

reactant | Thionyl chloride | 1.65 mol, 120 ml | S(=O)(Cl)Cl | Cl2OS
reactant | (2,3-dihydro-1H-inden-5-yl)methanol | 0.55 mol, 81.4 g | C1CCC2=CC(=CC=C12)CO | C10H12O
solvent | chloroform | 500 ml | C(Cl)(Cl)Cl | CHCl3
product | 5-(chloromethyl)-2,3-dihydro-1H-indene | 90.5 g, 99% | ClCC=1C=C2CCCC2=CC1 | C10H11Cl
